US05124472
Bis (tetrahydroabietyl)2,4 di-tert-butyl phenyl phosphite was prepared by first reacting 206 g (1 mol) of 2,4 di-tert-butylphenyl phenol with 310 g (1 mol) of triphenyl phosphite catalyzed with 2 g of sodium methylate (or phenate) to obtain a nominal 2,4 di-tert-butylphenyl diphenyl phosphite. Phenol was distilled through a 20 cm Raschig ring packed column to 150° C. and 30 mm. The reaction terminates at 190° C. at 4 mm after distilling the calculated 1 mol of phenol. The product mixture contained approximately 85% of the desired 2,4,di-tert-butylphenyl diphenylphosphite. The remainder was identified as being predominantly a mixture of bis (2,4 -di-tert-butylphenyl) phenyl phosphite and unreacted triphenyl phosphite.

reactant | 2,4 di-tert-butylphenyl phenol | 1 mol, 206 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)C1=C(C=CC=C1)O | C20H26O
reactant | triphenyl phosphite | 1 mol, 310 g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | sodium methylate | 2 g | C[O-].[Na+]
product | 2,4 di-tert-butylphenyl diphenyl phosphite | P(OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C26H31O3P
